US04661512
(a) paranitrophenyl N-(benzyloxycarbonyl)-(L)-pyroglutamate
10 g (40 mmol) of N-(benzyloxycarbonyl)-(L)-pyroglutamic acid and 5.84 g (40 mmol) of p-nitrophenol are dissolved in 100 ml of THF. A solution of 8.65 g (42 mmol) of N,N-dicyclohexylcarbodiimide in 40 ml of THF is run in at ordinary temperature, the mixture is stirred for 6 hours and filtered, the filtrate is evaporated, the residue is taken up with ethyl acetate, the mixture is filtered, the filtrate is evaporated and the residue is recrystallized from the same solvent. This gives 60% of a pure product of melting point=141°-2° C.; [α]D25 =-48.7° (C=1, THF).

reactant | N-(benzyloxycarbonyl)-(L)-pyroglutamic acid | 40 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
reactant | p-nitrophenol | 40 mmol, 5.84 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | paranitrophenyl N-(benzyloxycarbonyl)-(L)-pyroglutamate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C19H16N2O7
